US08895588B2
3-({1-(2-fluoropyridin-3-yl)-3-[(methylamino)methyl]-1H-pyrazol-5-yl}sulfonyl)benzonitrile hydrochloride
tert-Butyl({5-[(3-cyanophenyl)sulfonyl]-1-(2-fluoropyridin-3-yl)-1H-pyrazol-3-yl}methyl)methylcarbamate (247 mg) was dissolved in ethyl acetate (2 mL) and 2-propanol (1 mL), and 4 mol/L hydrogen chloride-ethyl acetate solution (3 mL) was added. After stirring at room temperature for 3 hr, the reaction mixture was concentrated under reduced pressure, and the residue was recrystallized from a mixed solvent of ethanol and water to give the title compound as colorless crystals (yield 184 mg, yield 86%). melting point 237-240° C.

reactant | tert-Butyl({5-[(3-cyanophenyl)sulfonyl]-1-(2-fluoropyridin-3-yl)-1H-pyrazol-3-yl}methyl)methylcarbamate | 247 mg | C(C)(C)(C)OC(N(C)CC1=NN(C(=C1)S(=O)(=O)C1=CC(=CC=C1)C#N)C=1C(=NC=CC1)F)=O | C22H22FN5O4S
reactant | hydrogen chloride-ethyl acetate | 4 mol/L, 3 mL | C(C)(=O)OCC.Cl
solvent | ethyl acetate | 2 mL | C(C)(=O)OCC | C4H8O2
solvent | 2-propanol | 1 mL | CC(C)O | C3H8O
product | 3-({1-(2-fluoropyridin-3-yl)-3-[(methylamino)methyl]-1H-pyrazol-5-yl}sulfonyl)benzonitrile hydrochloride | yield 184 mg, yield 86% | Cl.FC1=NC=CC=C1N1N=C(C=C1S(=O)(=O)C=1C=C(C#N)C=CC1)CNC | InChI=1S/C17H14FN5O2S.ClH/c1-20-11-13-9-16(23(22-13)15-6-3-7-21-17(15)18)26(24,25)14-5-2-4-12(8-14)10-19;/h2-9,20H,11H2,1H3;1H
